US07838675B2
N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(1R)-2-hydroxy-1-methylethoxy]-4-pyrimidinyl]-4-morpholinesulfonamide
The title compound was prepared according to the procedure outlined in example 24 using a mixture of 2-[[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(4-morpholinylsulfonyl)amino]-4-pyrimidinyl]oxy]-(2R)-propanoic acid ethyl ester, (the product of step i) (0.34 g), THF (8 mL) and 2M lithium borohydride in THF (1 mL). Purification was by reverse phase HPLC (symmetry as the stationary phase and ammonium acetate/acetonitrile as the mobile phase) to give the title compound as a white solid. Yield: 0.25 g

reactant | 2-[[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(4-morpholinylsulfonyl)amino]-4-pyrimidinyl]oxy]-(2R)-propanoic acid ethyl ester | C(C)OC([C@@H](C)OC1=NC(=NC(=C1)NS(=O)(=O)N1CCOCC1)SCC1=C(C(=CC=C1)F)F)=O | C20H24F2N4O6S2
reactant | lithium borohydride | 2M | [BH4-].[Li+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(1R)-2-hydroxy-1-methylethoxy]-4-pyrimidinyl]-4-morpholinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCOCC1)O[C@@H](CO)C | C18H22F2N4O5S2
